US06451814B1
4-(4-{2-[(2S)-2-Hydroxy-3-(4-hydroxy-3-methyl-phenoxy)-propylamino]- ethyl}-benzenesulfonyl)-piperidine-1-carboxylic Acid Octylamide
4-{[4-(2-{[(2S)-3-(4-{[tert-Butyl(diphenyl)silyl]oxy}3-methyl-phenoxy)-2-hydroxypropyl]amino}ethyl)phenyl]sulfonyl}-N-octyl-1-piperidinecarboxamide (0.395 g, 0.520 mmol) was reacted according to Procedure H to give the title compound (eluant: 20/3(v/v) chloroform/methanol) (0.225 g, 0.373 mmol).

reactant | 4-{[4-(2-{[(2S)-3-(4-{[tert-Butyl(diphenyl)silyl]oxy}3-methyl-phenoxy)-2-hydroxypropyl]amino}ethyl)phenyl]sulfonyl}-N-octyl-1-piperidinecarboxamide | 0.520 mmol, 0.395 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC1=C(C=C(OC[C@H](CNCCC2=CC=C(C=C2)S(=O)(=O)C2CCN(CC2)C(=O)NCCCCCCCC)O)C=C1)C | C48H67N3O6SSi
solvent | chloroform methanol | C(Cl)(Cl)Cl.CO
product | 4-(4-{2-[(2S)-2-Hydroxy-3-(4-hydroxy-3-methyl-phenoxy)-propylamino]- ethyl}-benzenesulfonyl)-piperidine-1-carboxylic Acid Octylamide | C(CCCCCCC)NC(=O)N1CCC(CC1)S(=O)(=O)C1=CC=C(C=C1)CCNC[C@@H](COC1=CC(=C(C=C1)O)C)O | C32H49N3O6S
